US05652238
Next, (S)-N-[[3-[3,5-difluoro-4-[4-(benzyloxyacetyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (3.84 g, 7.6 mmol) was dissolved in hot 10% EtOac/MeOH (150 mL). After degassing the solution three times with N2, the Pearlman's catalyst (384 mg, 10% by weight) was added. The solution was degassed again and then the atmosphere was replaced with H2. The reaction was stirred at room temperature for 4.5 hours. At this point, the reaction was found to be complete by TLC (10% MeOH/CHCl3, UV short wave). The solution was filtered through celite, washing the cake with EtOAc (250 mL). The filtrate was concentrated under reduced pressure to give a white solid. The material was chromatographed on silica gel (150 g), eluting with a gradient of 1-6, 10% MeOH in 10% CH3CN/CHCl3 to yield 3.078 g (98%) of (S)-N-[[3-[3,5-difluoro-4-[4-(hydroxyacetyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide as a white solid with a melting point of 160.5°-162.5° C.

reactant | (S)-N-[[3-[3,5-difluoro-4-[4-(benzyloxyacetyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 7.6 mmol, 3.84 g | FC=1C=C(C=C(C1N1CCN(CC1)C(COCC1=CC=CC=C1)=O)F)N1C(O[C@H](C1)CNC(C)=O)=O | C25H28F2N4O5
solvent | MeOH | 150 mL | CO | CH4O
product | (S)-N-[[3-[3,5-difluoro-4-[4-(hydroxyacetyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 3.078 g, 98% | FC=1C=C(C=C(C1N1CCN(CC1)C(CO)=O)F)N1C(O[C@H](C1)CNC(C)=O)=O | C18H22F2N4O5
